US07786165B2
ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-6-isopropoxy-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate
To a solution of ethyl 3-(2-fluoro-4-{[(4′-hydroxy-6-isopropoxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (993 mg, 1.49 mmol) and 1-oxa-6-thiaspiro[2.5]octane (779 mg, 5.98 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (827 mg, 5.98 mmol), and the mixture was stirred overnight at 80° C. Brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give the title compound (605 mg, yield 51%) as a yellow oil.

reactant | ethyl 3-(2-fluoro-4-{[(4′-hydroxy-6-isopropoxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.49 mmol, 993 mg | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C(=CC1)OC(C)C)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C35H37FN2O8S
reactant | 1-oxa-6-thiaspiro[2.5]octane | 5.98 mmol, 779 mg | O1CC12CCSCC2 | C6H10OS
reactant | potassium carbonate | 5.98 mmol, 827 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-6-isopropoxy-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 605 mg, yield 51% | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C(=CC1)OC(C)C)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)CCC(=O)OCC | C41H47FN2O9S2
